US07812022B2
2-Chloro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-4-pyridinecarboxamide
In a manner analogous to Example 66, 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine and 2-chloro-4-pyridinecarbonyl chloride are used to prepare the title compound. HRMS calcd for C29H19ClFN7O: 535.1324, found: 536.1392 (M+H+).

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F | C23H17FN6
reactant | 2-chloro-4-pyridinecarbonyl chloride | ClC1=NC=CC(=C1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-{3-[2-(1,2,3,4-tetrahydro-7-isoquinolinylamino)-4-pyrimidinyl]-pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide | C1NCCC2=CC=C(C=C12)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=CC=CC=C2)=O | C33H27N7O
product | 2-Chloro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-4-pyridinecarboxamide | ClC1=NC=CC(=C1)C(=O)NC1=CC(=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F | C29H19ClFN7O
